US08492582B2
Under ice-cooling, 60% sodium hydride (54 mg) was added to an N,N-dimethylformamide (3.0 mL) solution of methyl 4-(2-(ethylamino)phenyl)-2-nitrobenzoate (0.27 g), followed by stirring at the same temperature for 5 minutes and then at room temperature for 15 minutes. Methyl iodide (0.083 mL) was added to the reaction mixture under ice-cooling, followed by stirring at room temperature for 1 hour and then at 50° C. for 1 hour. The reaction mixture was cooled to room temperature, and then methyl iodide (0.11 mL) was added thereto, followed by stirring at 40 to 50° C. for 2 hours. The reaction mixture was cooled to room temperature, and then water and diethyl ether were added thereto. The organic layer was separated, washed with a saturated aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride sequentially, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 99-95% hexane/ethyl acetate] to obtain 0.12 g of methyl 4-(2-((ethyl)(methyl)amino)phenyl)-2-nitrobenzoate as a yellow oily substance.

reactant | sodium hydride | 54 mg | [H-].[Na+]
reactant | N,N-dimethylformamide | 3.0 mL | CN(C=O)C | C3H7NO
reactant | methyl 4-(2-(ethylamino)phenyl)-2-nitrobenzoate | 0.27 g | C(C)NC1=C(C=CC=C1)C1=CC(=C(C(=O)OC)C=C1)[N+](=O)[O-] | C16H16N2O4
reactant | Methyl iodide | 0.083 mL | CI | CH3I
reactant | methyl iodide | 0.11 mL | CI | CH3I
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
product | methyl 4-(2-((ethyl)(methyl)amino)phenyl)-2-nitrobenzoate | 0.12 g | C(C)N(C1=C(C=CC=C1)C1=CC(=C(C(=O)OC)C=C1)[N+](=O)[O-])C | C17H18N2O4
